US07855298B2
Preparation 52: 3-(Phenylmethyl)-1-[5-(trifluoromethyl)-2-pyridinyl]-3-azabicyclo[3.1.0]hexane
To a slurry of sodium hydride (83 mg) and trimethylsulfoxonium iodide (0.46 g) DMSO (anhydrous, 3 mL) was added dropwise (gas evolution). The resulting mixture was allowed to stir at room temperature for 0.5 h. A solution of 2-[1-(phenylmethyl)-2,5-dihydro-1H-pyrrol-3-yl]-5-(trifluoromethyl)pyridine (330 mg) in DMSO (anhydrous, 6 mL) was added at room temperature. After 1 h a saturated solution of ammonium chloride (4 mL) was added and the mixture extracted with dichloromethane (2×10 mL). Volatiles from the organic phase were evaporated under reduced pressure, the residue charged onto an SCX column and eluted with MeOH followed by MeOH/NH3 0.25 M. The methanole/ammonia fractions were concentrated under reduced pressure to give 0.31 g of the title compound (y=89%).

reactant | sodium hydride | 83 mg | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 3 mL, 0.46 g | [I-].C[S+](=O)(C)C
reactant | 2-[1-(phenylmethyl)-2,5-dihydro-1H-pyrrol-3-yl]-5-(trifluoromethyl)pyridine | 330 mg | C1(=CC=CC=C1)CN1CC(=CC1)C1=NC=C(C=C1)C(F)(F)F | C17H15F3N2
reactant | ammonium chloride | 4 mL | [Cl-].[NH4+]
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | 3-(Phenylmethyl)-1-[5-(trifluoromethyl)-2-pyridinyl]-3-azabicyclo[3.1.0]hexane | 0.31 g, 89% | C1(=CC=CC=C1)CN1CC2(CC2C1)C1=NC=C(C=C1)C(F)(F)F | C18H17F3N2
